US06998416B2
(E)-4-(3-Benzyloxy-4-methoxyphenyl)-3-methylbut-3-en-2-one
A solution of commercially available 3-benzyloxy-4-methoxybenzaldehyde (34 g, 0.14 mol, 1 eq) and 2-butanone (50 mL, 0.56 mol, 4 eq) in dry THF (50 mL) was cooled to −4° C. Hydrogen chloride gas was passed through the well-stirred solution for several minutes, and the reaction mixture was capped and stored at −4° C. for 16 h. The mixture was poured into a well stirred solution of ice-cold saturated sodium bicarbonate (NaHCO3) (about 2 L). If necessary, the pH was adjusted to >7 with sat. NaHCO3, and the mixture was extracted with EtOAc (3×300 mL).

reactant | 3-benzyloxy-4-methoxybenzaldehyde | 0.14 mol, 34 g, 1 eq | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1OC | C15H14O3
reactant | 2-butanone | 0.56 mol, 50 mL, 4 eq | CC(CC)=O | C4H8O
reactant | Hydrogen chloride | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (E)-4-(3-Benzyloxy-4-methoxyphenyl)-3-methylbut-3-en-2-one | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)/C=C(/C(C)=O)\C | C19H20O3
